US08865682B2
A mixture of 6-fluoro-3-(4-methoxy-5H-furan-2-ylidene)-1,3-dihydro-indol-2-one (100 mg, 0.40 mmol) and morpholine (0.5 mL, 5.7 mmol) in 20 mL of EtOH was heated at reflux for 16 hours. The mixture was cooled to room temperature. The precipitates were filtered, rinsed with EtOH and dried in vacuum to give 6-fluoro-3-(4-morpholin-4-yl-5H-furan-2-ylidene)-1,3-dihydro-indol-2-one as a pale yellow powder. Yield: 55 mg, 45%.

reactant | 6-fluoro-3-(4-methoxy-5H-furan-2-ylidene)-1,3-dihydro-indol-2-one | 0.40 mmol, 100 mg | FC1=CC=C2C(C(NC2=C1)=O)=C1OCC(=C1)OC | C13H10FNO3
reactant | morpholine | 5.7 mmol, 0.5 mL | N1CCOCC1 | C4H9NO
solvent | EtOH | 20 mL | CCO | C2H6O
product | 6-fluoro-3-(4-morpholin-4-yl-5H-furan-2-ylidene)-1,3-dihydro-indol-2-one | FC1=CC=C2C(C(NC2=C1)=O)=C1OCC(=C1)N1CCOCC1 | C16H15FN2O3
